US09376383B2
Synthesis of (1-[1-Carboxy-2-(3,7,11-trimethyl-dodeca-2,6,10-trienylsulfanyl)-ethylcarbamoyl]-cyclopropanecarboxylic acid methyl ester) (Compound N-52):
In a 100 mL round bottom flask, 1,1-Cyclopropanedicarboxylic acid monomethyl ester (158 mg, 1.1 mmol), 2-(7-Aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (1.1 mg, 1.1 mmol) and N,N-diisopropyl-ethyl-amine (0.52 mL, 3 mmol) were mixed in THF (5 mL). The reaction solution was stirred at room temperature for ten minutes. S-trans, trans-Farnesyl-L-cysteine (325 mg, 1 mmol) was added to reaction mixture. The reaction solution was stirred at room temperature overnight. Ethyl acetate (50 mL) was added and then washed with saturated ammonium chloride aqueous solution (20 mL×2), DI water (20 mL×2) and brine (20 mL×2) sequentially. The ethyl acetate solution was dried by Na2SO4 and concentrated in vacuo to afford crude Compound N-52. The crude Compound N-52 was purified by HPLC (120 mg, 27%) to yield Compound N-52. 1H-NMR (500 MHz, MeOH-d4): δ 1.45-1.48 (m, 4H), 1.50 (s, 6H), 1.57 (s, 3H), 1.58 (s, 3H), 1.85-1.89 (m, 2H), 1.93-1.98 (m, 4H), 2.01-2.05 (m, 2H), 2.78-2.91 (m, 2H), 3.06-3.15 (m, 2H), 3.62 (s, 3H), 4.56 (t, J=5.0 Hz, 1H), 4.97-5.02 (m, 2H), 5.12 (t, J=7.5 Hz, 1H). 13C-NMR (125 MHz, MeOH-d4): δ 9.2, 16.14, 16.20, 17.80, 20.05, 25.95, 27.31, 27.37, 27.78, 30.61, 33.62, 40.74, 40.88, 52.96, 53.97, 121.61, 125.11, 125.45, 132.11, 136.28, 140.59, 170.81, 173.75, 174.39; ES-MS: mass calcd for Chemical Formula: C24H37NO5S 451.2. Found (M+Na) m/z 474.2.

reactant | 1,1-Cyclopropanedicarboxylic acid monomethyl ester | 1.1 mmol, 158 mg | COC(=O)C1(CC1)C(=O)O | C6H8O4
reactant | 2-(7-Aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 1.1 mmol, 1.1 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropyl-ethyl-amine | 3 mmol, 0.52 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trans-Farnesyl-L-cysteine | 1 mmol, 325 mg | CC(=CCC/C(=C/CC/C(=C/CSC[C@@H](C(=O)O)N)/C)/C)C | C18H31NO2S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-[1-Carboxy-2-(3,7,11-trimethyl-dodeca-2,6,10-trienylsulfanyl)-ethylcarbamoyl]-cyclopropanecarboxylic acid methyl ester | COC(=O)C1(CC1)C(NC(CSCC=C(CCC=C(CCC=C(C)C)C)C)C(=O)O)=O | C24H37NO5S
